US06911562B2
In a three necked round bottom flask (equipped with a condenser, additional funnel and mechanical stirrer) was added the catalyst or combination of the catalysts. 100 ml of a mixture of 50:50 ethanol:water was added and the reaction was heated to reflux conditions. 2,4-dihydroxy acetophenone in 100 ml of water:ethanol mixture with or without acids was placed in the additional funnel and was added to the mixture (dropwise-2-4 hrs). The reaction was filtered through a milipore filter and concentrated in vacuo to give a solid. This solid was crystalized from 1,2-dichloroethane to give 4-ethyl resorcinol. The unreacted 2,4-dihydroxy acetophenone is recovered from the media and recycled. The structure of 4-ethyl resorcinol and 2,4-dihydroxy acetophenone were characterized by NMR, Gas Chromatography, IR and Mass spectroscopy

reactant | ethanol | C(C)O | C2H6O
reactant | 2,4-dihydroxy acetophenone | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
solvent | water | 100 ml | O | H2O
product | 4-ethyl resorcinol | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
